US08471005B2
Into a Round bottom flask, 1-Methyl-4-[2-(4-nitro-phenoxy)-ethyl]-piperazine (3.89 g, 0.0147 mol), 10% Pd/C (10:90, Palladium:carbon black, 1.6 g, 0.0015 mol), and Ethanol (100 mL, 2 mol) were added. The mixture was evacuated under house vacuum and charged with a hydrogen balloon (3×). The reaction was stirred at room temperature under an atmosphere of Hydrogen via a balloon. The solid was filtered. The solvent was removed under vacuum. The desired product was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 10%). The collected fractions afforded 4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenylamine as a red solid (2.35 g, 68%). NMR 1H (DSMO-d6-6.63 (dd, 2H, JJ=1.92, 4.72 Hz), 6.48 (dd, 2H, JJ=1.96, 4.72 Hz), 4.52 (bs, 2H), 3.89 (t, 2H, J=5.92 Hz), 2.59 (t, 2H, J=5.92 Hz), 2.44 (bs, 4H), 2.29 (bs, 4H), 2.13 (s, 3H)

reactant | 1-Methyl-4-[2-(4-nitro-phenoxy)-ethyl]-piperazine | 0.0147 mol, 3.89 g | CN1CCN(CC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O3
reactant | Ethanol | 2 mol, 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.0015 mol, 1.6 g | [Pd] | Pd
product | 4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenylamine | 2.35 g, 68% | CN1CCN(CC1)CCOC1=CC=C(C=C1)N | C13H21N3O
